US08222260B2
2-Amino-6-(3-methoxyanilino)purine
To a suspension of 2-amino-6-chloropurine (1.69 g; 0.01 mol) and m-anisidine (1.23 g; 0.01 mol) in n-butanol (20 ml), triethylamine (3.5 ml; 0.025 mol) was added. The resulting thick suspension was stirred at 110° C. for 3 hours. The TLC showed the absence of the starting material and the presence of the desired product. The reaction mixture was then cooled to room temperature. The white precipitate was filtered off, rinsed with n-butanol (3×10 ml) and water (3×10 ml) and dried in the drying oven into constant weight. Yield: 2.19 g (85%). The crude product was purified as hydrochloride salt by crystallization from 2.5 M methanolic hydrogen chloride to give 2.17 g of almost white crystals (as hydrochloride). TLC (chloroform-methanol-NH4OH; 4:1:0.05): one single spot, free of starting material. HPLC purity: 99+%.

reactant | 2-amino-6-chloropurine | 0.01 mol, 1.69 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | m-anisidine | 0.01 mol, 1.23 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | triethylamine | 0.025 mol, 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-Amino-6-(3-methoxyanilino)purine | NC1=NC(=C2NC=NC2=N1)NC1=CC(=CC=C1)OC | C12H12N6O
